US04728647
The procedure is as in Example 1, but starting with (2-phenyl-4-quinolyl)oxyacetic acid (3 g), thionyl chloride (2.35 cc) in chloroform (50 cc), piperidine (1.04 cc) and triethylamine (3 cc) in toluene (50 cc). The residue obtained is converted in acetone to its hydrochloride by adding a solution of hydrochloric acid in ethyl ether. After recrystallization in ethanol, 1-[(2-phenyl-4-quinolyl)oxyacetyl]piperidine hydrochloride (0.46 g), m.p. 146° C., is obtained.

reactant | (2-phenyl-4-quinolyl)oxyacetic acid | 3 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)OCC(=O)O | C17H13NO3
reactant | thionyl chloride | 2.35 cc | S(=O)(Cl)Cl | Cl2OS
reactant | hydrochloride | Cl | ClH
solvent | chloroform | 50 cc | C(Cl)(Cl)Cl | CHCl3
solvent | piperidine | 1.04 cc | N1CCCCC1 | C5H11N
solvent | triethylamine | 3 cc | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 cc | C1(=CC=CC=C1)C | C7H8
solvent | acetone | CC(=O)C | C3H6O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 1-[(2-phenyl-4-quinolyl)oxyacetyl]piperidine hydrochloride | 0.46 g | Cl.C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)OCC(=O)N1CCCCC1 | InChI=1S/C22H22N2O2.ClH/c25-22(24-13-7-2-8-14-24)16-26-21-15-20(17-9-3-1-4-10-17)23-19-12-6-5-11-18(19)21;/h1,3-6,9-12,15H,2,7-8,13-14,16H2;1H
